US07572809B2
Similar procedure as described in example 10 was used, starting from phenyl-methanol, (1-chloro-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine to give (1-benzyloxy-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine. LC-MS m/e 361(MH+).

reactant | phenyl-methanol | C1(=CC=CC=C1)CO | C7H8O
reactant | (1-chloro-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC(=C1)C | C14H13ClN4O
product | (1-benzyloxy-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | C(C1=CC=CC=C1)OC1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC(=C1)C | C21H20N4O2
